US05767131
1-[3-(N-Methylamino)propyl]-4,4-diphenylpiperidine.
To a stirred solution of 3-(4,4-diphenylpiperidin-1-yl)propionitrile (5.00 g, 17.2 mmol, 1.00 equiv) in CH2Cl2 (40 mL) was added HCl in ether (1.0M, 22.4 mL, 22 mmol, 1.3 equiv). After removal of the solvents, the residue and trimethyloxonium tetrafluoroborate (9.67 g, 65.4 mmol, 3.80 equiv) were stirred in refluxing anhydrous CH2Cl2 (80 mL) under argon for 44 hours. The mixture was cooled to 0° C., anhydrous MeOH (5 mL) was added, and stirring was continued for 1 hour at 0° C. The solvents were removed and the residue was dissolved in anhydrous MeOH (30 mL). Sodium borohydride (5.20 g, 138 mmol, 8.00 equiv) was added at 0° C., and stirring was continued at this temperature under argon for 2 hours. The solution was acidified to pH 1 by slow addition of 6N aqueous HCl (40 mL) at 0° C. and stirred for 3 hours at room temperature. After removal of the solvents, water (30 mL) was added and the mixture was basified to pH 9 by addition of 6N aqueous NaOH. The mixture was extracted with CH2Cl2 (3×100 mL), and the combined organic solutions were dried over MgSO4 and concentrated. The residue was purified by flash chromatography (SiO2, EtOAc-MeOH-isopropylamine 9:1:0 to 5:1:0.2) to give 2.18 g (41%) of yellow solid, which was characterized spectroscopically.

reactant | 3-(4,4-diphenylpiperidin-1-yl)propionitrile | 17.2 mmol, 5.00 g, 1.00 equiv | C1(=CC=CC=C1)C1(CCN(CC1)CCC#N)C1=CC=CC=C1 | C20H22N2
reactant | HCl | Cl | ClH
reactant | ether | 22 mmol, 1.0M, 22.4 mL, 1.3 equiv | CCOCC | C4H10O
reactant | trimethyloxonium tetrafluoroborate | 65.4 mmol, 9.67 g, 3.80 equiv | F[B-](F)(F)F.C[O+](C)C
reactant | Sodium borohydride | 138 mmol, 5.20 g, 8.00 equiv | [BH4-].[Na+]
reactant | HCl | 6N, 40 mL | Cl | ClH
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 mL | CO | CH4O
product | 1-[3-(N-Methylamino)propyl]-4,4-diphenylpiperidine | 2.18 g, 41% | CNCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H28N2
